US06455587B1
Preparation of Nε-(3-Trifluoromethylbenzenesulfonyl)-Nα-(9-fluorenylmethoxycarbonyl)-L-lysine (Compound No. 34)
Nα-(9-fluorenylmethoxycarbonyl)-L-lysine was reacted with 3-trifluoromethylbenzenesulfonyl chloride under the conditions used in example 2 giving 61% of the title compound.

reactant | Nα-(9-fluorenylmethoxycarbonyl)-L-lysine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCCCN)C(=O)O | C21H24N2O4
reactant | 3-trifluoromethylbenzenesulfonyl chloride | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | Nε-(3-Trifluoromethylbenzenesulfonyl)-Nα-(9-fluorenylmethoxycarbonyl)-L-lysine | 61% | FC(C=1C=C(C=CC1)S(=O)(=O)NCCCC[C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O)(F)F | C28H27F3N2O6S
